US09353089B2
Step 2. Preparation of 3-(1-(5-chloro-2-hydroxybenzyl)piperidin-4-yl)-2-imino-5,5-bis(4-methoxyphenyl)imidazolidin-4-one (569)
5-Chlorosalicylaldehyde (0.24 g, 1.53 mmol), sodium cyanoborohydride (0.33 g, 5.25 mmol) and 2-imino-5,5-bis(4-methoxyphenyl)-3-(piperidin-4-yl)imidazolidin-4-one (0.41 g, 1.04 mmol) were dissolved in ethanol and the solution was stirred at room temperature overnight. The mixture was extracted with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was purified over a silica column (MeOH/DCM=1/20) to give the title compound as a white solid (0.18 g, 33% yield).

reactant | 5-Chlorosalicylaldehyde | 1.53 mmol, 0.24 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | sodium cyanoborohydride | 5.25 mmol, 0.33 g | C(#N)[BH3-].[Na+]
reactant | 2-imino-5,5-bis(4-methoxyphenyl)-3-(piperidin-4-yl)imidazolidin-4-one | 1.04 mmol, 0.41 g | N=C1NC(C(N1C1CCNCC1)=O)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H26N4O3
solvent | ethanol | C(C)O | C2H6O
product | 3-(1-(5-chloro-2-hydroxybenzyl)piperidin-4-yl)-2-imino-5,5-bis(4-methoxyphenyl)imidazolidin-4-one | 0.18 g, 33% yield | ClC=1C=CC(=C(CN2CCC(CC2)N2C(NC(C2=O)(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)=N)C1)O | C29H31ClN4O4
